US04416687
Preparation of N-methyl 2-[3,5-bis(trifluoromethyl)phenoxy]acetamide
To a stirred solution containing 5 g (0.022 mole) of 3,5-ditrifluoromethylphenol, 1.6 g (0.024 mole) of 85% potassium hydroxide, 10 ml of water and 200 ml of acetone, 0.024 mole of N-methyl chloroacetamide was added in one portion. The stirred reaction mixture was heated at 56°-60° C. for 22 hours. After cooling to 0° C., 600 g of ice water was added and stirring continued at 0°-10° C. for 30 minutes. The resulting solid was collected by filtration, washed with water until neutral to litmus and air-dried at 25°-30° C. A product with a melting point of 98°-99° C. (determined after recrystallization from heptane) was obtained with a 24% yield.

reactant | 3,5-ditrifluoromethylphenol | 0.022 mole, 5 g | C1=C(C=C(C=C1C(F)(F)F)O)C(F)(F)F | C8H4F6O
reactant | potassium hydroxide | 0.024 mole, 1.6 g | [OH-].[K+]
reactant | water | 10 ml | O | H2O
reactant | N-methyl chloroacetamide | 0.024 mole | CNC(CCl)=O | C3H6ClNO
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | N-methyl 2-[3,5-bis(trifluoromethyl)phenoxy]acetamide | 24% yield | CNC(COC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O | C11H9F6NO2
